US06235823B1
A 300 ml four-necked flask equipped with a stirrer, thermometer, condenser and gas inlet was charged with 6.48 g (0.03 mole) of 2,6-naphthalenedicarboxylic acid, 5.61 g (0.066 mole) of cyclopentylamine, 20.46 g (0.066 mol) of triphenyl phosphite, 25 g of pyridine and 100 g of N-methylpyrrolidone, and the reaction was carried out in a nitrogen gas atmosphere at 100° C. for 3 hours, with stirring. After cooling, the reaction mixture was poured in 700 ml of isopropyl alcohol/water (1:1) for reprecipitation and washing. The mixture was stirred for 2 hours and the precipitate was then recovered by filtration and dried under reduced pressure at 110° C. to provide 9.03 g (yield 86%) of N,N′-dicyclopentyl-2,6-naphthalenedicarboxamide. This compound was a white powder melting at 375.4° C. (decomp.). The elemental analysis and characteristic infrared absorptions are shown in Table 1.

reactant | 2,6-naphthalenedicarboxylic acid | 0.03 mole, 6.48 g | C1=C(C=CC2=CC(=CC=C12)C(=O)O)C(=O)O | C12H8O4
reactant | cyclopentylamine | 0.066 mole, 5.61 g | C1(CCCC1)N | C5H11N
reactant | triphenyl phosphite | 0.066 mol, 20.46 g | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | pyridine | 25 g | N1=CC=CC=C1 | C5H5N
solvent | isopropyl alcohol water | 700 ml | C(C)(C)O.O
solvent | N-methylpyrrolidone | 100 g | CN1C(CCC1)=O | C5H9NO
product | N,N′-dicyclopentyl-2,6-naphthalenedicarboxamide | 9.03 g, yield 86% | C1(CCCC1)NC(=O)C1=CC2=CC=C(C=C2C=C1)C(=O)NC1CCCC1 | C22H26N2O2
